US05550121
To (2S,4R)-N-tert-butoxycarbonyl-4-tert-butyldimethylsiloxy-2-(2-methoxycarbonyl-1-oxoethyl)pyrrolidine (3.17 g, 7.9 mmol) was added a 3N hydrogen chloride--dioxane solution (30 ml). The mixture was stirred at room temperature for 2 h, and then concentrated in vacuo. Chloroform (20 ml) and methanol (20 ml) were added thereto, and the solvent was removed in vacuo. This operation was repeated twice, followed by being left overnight to obtain crude (2S,4R)-4-hydroxy-2-(2-methoxycarbonyl-1-oxoethyl)pyrrolidine monohydrochloride (1.76 g).

reactant | (2S,4R)-N-tert-butoxycarbonyl-4-tert-butyldimethylsiloxy-2-(2-methoxycarbonyl-1-oxoethyl)pyrrolidine | 7.9 mmol, 3.17 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C(CC(=O)OC)=O | C19H35NO6Si
reactant | hydrogen chloride | 3N | Cl | ClH
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | (2S,4R)-4-hydroxy-2-(2-methoxycarbonyl-1-oxoethyl)pyrrolidine monohydrochloride | 1.76 g | Cl.O[C@@H]1C[C@H](NC1)C(CC(=O)OC)=O | InChI=1S/C8H13NO4.ClH/c1-13-8(12)3-7(11)6-2-5(10)4-9-6;/h5-6,9-10H,2-4H2,1H3;1H/t5-,6+;/m1./s1
